US07612067B2
Preparation of 3-[3-chloro-4-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine, hydrochloride salt
Reike® Zn (0.5 g/mL solution in THF (1.9 mL, 1.45 mmol) is added to a flask containing 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.30 g, 0.73 mmol). The slurry is heated at 65° C. for 1 hour, placed in a centrifuge for 5 minutes, and the resulting solution is transferred to a flask containing 2-bromo-6-methyl-pyridine (0.12 g, 0.73 mmol) and PdCl2(dppf) (0.018 g, 0.024 mmol). The reaction is heated at 65° C. overnight, diluted with ethyl acetate (20 mL), and washed with a sat. solution of NH4Cl (15 mL). The organic layer is dried over MgSO4, filtered, and concentrated. The residue is purified by silica gel chromatography using a hexanes and ethyl acetate gradient. The resulting product is dissolved in dichloromethane (5 mL), treated with a 1 M solution of HCl in EtOH (0.35 mL, 0.35 mmol) and concentrated. The residue is recrystallized from ethyl acetate and hexanes furnish the title compound (0.033 g, 0.072 mmol, 11%). 1H-NMR (CDCl3), δ 0.95 (t, J=7.3 Hz, 6H), 1.73-2.02 (m, 4H), 2.68 (s, 3H), 2.81 (s, 3H), 3.21 (s, 3H), 3.88-3.98 (m, 1H), 7.25 (s, 1H), 7.65 (d, J=7.5 Hz, 1H), 8.09 (d, J=7.5 Hz, 1H), 8.33 (dd, J=7.5, 7.1 Hz, 1H), 9.26 (s, 1H) ppm. LC/MS (m/z): calcd. for C23H26Cl2N4S (M+H)+: 424.2; found: 424.2.

reactant | THF | 1.45 mmol, 1.9 mL | C1CCOC1 | C4H8O
reactant | 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.73 mmol, 0.30 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | 2-bromo-6-methyl-pyridine | 0.73 mmol, 0.12 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | HCl | Cl | ClH
reactant | EtOH | 0.35 mmol, 0.35 mL | CCO | C2H6O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Zn | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.024 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3-chloro-4-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine, hydrochloride salt | 0.072 mmol, 0.033 g, 11% | Cl.ClC1=C(SC=C1C1=NC(=CC=C1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | InChI=1S/C23H25ClN4S.ClH/c1-6-16(7-2)17-11-14(4)27-28-21(15(5)26-23(17)28)22-20(24)18(12-29-22)19-10-8-9-13(3)25-19;/h8-12,16H,6-7H2,1-5H3;1H
